US07795255B2
2-Iodo-4-nitrophenol (30 mg, 0.11 mmol) and propargyl alcohol (19 mg, 0.33 mmol) were suspended in a mixture of water (1 ml) and acetonitrile (0.2 ml). Triethylamine (34.3 mg, 0.34 mmol), Pd/C (10%, 2.6 mg, 5.6 μmol), triphenylphosphine (5.9 mg, 22.6 μmol) and copper iodide (2.15 mg, 11.3 μmol) were then added and the heterogeneous mixture was heated at 80° C. while stirring for 3 hours. After cooling the reaction mixture was filtered over celite, and a mixture of water (40 ml) and ethyl acetate (20 ml) was added to the filtrate. After separation of the phases the aqueous phase was extracted with ethyl acetate (2×10 ml) and the combined organic phase was washed with a saturated solution of NaHCO3, then brine, dried over Na2SO4 and the solvent was evaporated under reduced pressure. The crude product was purified by silica gel flash chromatography to give 17.2 mg of pure 4-nitro-benzofuran-2-yl-methanol (78% yield).

reactant | 2-Iodo-4-nitrophenol | 0.11 mmol, 30 mg | IC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4INO3
reactant | propargyl alcohol | 0.33 mmol, 19 mg | C(C#C)O | C3H4O
reactant | Triethylamine | 0.34 mmol, 34.3 mg | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 22.6 μmol, 5.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 1 ml | O | H2O
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
catalyst | Pd/C | 5.6 μmol, 2.6 mg | [Pd] | Pd
catalyst | copper iodide | 11.3 μmol, 2.15 mg | [Cu](I)I
product | 4-nitro-benzofuran-2-yl-methanol | 17.2 mg, 78% yield | [N+](=O)([O-])C1=CC=CC2=C1C=C(O2)CO | C9H7NO4
